US06808862B2
In a mixed solvent of 500 ml of water and 100 ml of methanol was dissolved 10 g of potassium perfluorobutanesulfonate, and to the solution was added a solution containing 7.75 g of 2-oxo-3,3-dimethylbutyltetrahydrothiophenium bromide dissolved in 50 ml of methanol. The aqueous solution was extracted twice with each 100 ml of chloroform, and the organic phase was washed with water and concentrated to obtain an oily product. To the oily product was added ethyl acetate, and the solution was again concentrated to obtain a solid product. The solid product was collected by filtration and subjected to reslurry with diisopropyl ether to obtain 9 g of 2-oxo-3,3-dimethylbutyltetrahydrothiophenium perfluorobutanesulfonate.

reactant | potassium perfluorobutanesulfonate | 10 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[K+]
reactant | 2-oxo-3,3-dimethylbutyltetrahydrothiophenium bromide | 7.75 g | [Br-].O=C(C[S+]1CCCC1)C(C)(C)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 500 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-oxo-3,3-dimethylbutyltetrahydrothiophenium perfluorobutanesulfonate | 9 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.O=C(C[S+]1CCCC1)C(C)(C)C | InChI=1S/C10H19OS.C4HF9O3S/c1-10(2,3)9(11)8-12-6-4-5-7-12;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h4-8H2,1-3H3;(H,14,15,16)/q+1;/p-1
